.title KiCad schematic


.model __D2 D
.model __D4 D
.model __D3 D
.model __D7 D
R1 0 Net-_J12-CC1_ 5.1k
R7 0 Net-_J12-CC2_ 5.1k
C12 +3V3 0 1u
R3 Net-_D2-K_ 0 500
D2 Net-_D2-K_ /Microcontroller/HEATER __D2
C1 +12V 0 0.1u
R6 Net-_U1-GPIO2/ADC1_CH2_ +3V3 10k
D4 NC-D4-0 Net-_D4-A_ __D4
D3 NC-D3-0 Net-_D3-A_ __D3
R11 Net-_D4-A_ +3V3 10k
R2 Net-_D3-A_ +3V3 10k
C7 Net-_U1-EN/CHIP_PU_ 0 10u
R5 Net-_U1-EN/CHIP_PU_ +3V3 10k
C8 +3V3 0 1u
C3 +3V3 0 1u
C4 +3V3 0 1u
C6 +3V3 0 1u
L1 Net-_U8-SW_ +3V3 3.9u
C11 VBUS 0 10u
C13 Net-_U8-SW_ Net-_U8-BST_ 100n
C9 +3V3 0 22u
C10 +3V3 0 22u
D7 0 +12V __D7
C5 Net-_U5-SS_ 0 10n
R12 Net-_U5-ILIM_ 0 51.1k
C2 +12V 0 10u

 
V_3V3 +3V3 0 DC 3.3
V_12V +12V 0 DC 12.0


.control 
tran 100u 10m 
set filetype=ascii 
write ./outputs/spice_circuits/CF-Chef_raw.raw all 
.endc 

.end
