.title KiCad schematic

R2 Net-_Q2-G_ +3.3V 10k
C4 0 Net-_U2-K_ 1u
C3 Net-_U1-A_ Net-_Q1-D_ 4.7u
C6 0 Net-_U3-A_ 1u
C2 0 Display_Power_Switch 1u
L1 Net-_Q1-D_ Display_Power_Switch 10u
R1 Net-_Q1-S_ 0 0.47
C1 0 Display_Power_Switch 0.1u
C8 Net-_C8-Pad1_ 0 1u
C7 Net-_C7-Pad1_ 0 1u
C10 Net-_C10-Pad1_ 0 1u
C9 Net-_C9-Pad1_ 0 1u
C5 Net-_C5-Pad1_ 0 1u
C11 unconnected-_C11-Pad1_ 0 0.1u
* L2 Net-_IC1-SW_ +3.3V LQM2MPN1R0MGHL
C13 +3.3V 0 10u
C12 BAT+ 0 2.2u

V_3V3 +3.3V 0 DC 3.3 
V_BAT BAT+ 0 DC 25.0

.control 
tran 100u 10m 
set filetype=ascii 
write ./outputs/spice_circuits/Meshinger_raw.raw all 
.endc 

.end
