.title KiCad schematic

R4 TACH /TACH_IN 1k
R5 /PWM_OUT PWM 1k
R2 PWM Net-_Q2-B_ 1k
R3 +5V RST 10k
R1 VCC Net-_Q1-G_ 10k
C2 +5V 0 100n
C1 VCC 0 100n
 
V_5V +5V 0 DC 5.0
V_VCC VCC 0 DC 5.0

.control 
tran 100u 10m 
set filetype=ascii 
write ./outputs/spice_circuits/fan_controller_raw.raw all 
.endc 

.end
