.title KiCad schematic



C4 0 FLOAT_LOW 100n
C2 +24V 0 220u
R5 /GPUMP +3V3 10k
R6 FLOAT_LOW +3V3 10k
R9 0 FLOAT_HIGH 10k
C5 FLOAT_HIGH +3V3 100n
C14 0 +3V3 10u
C3 0 +24V 100n
C1 +5V 0 100u
R12 0 /GATO 10k
C9 +24V 0 47u
R11 FLOAT_HIGH /BATO 4.7k
R10 ATO_VALVE /GATO 100
C13 0 +3V3 100n
C11 0 +24V 100n
R2 FLOAT_LOW /BPUMP 4.7k
R1 PUMP_MAIN /GPUMP 100
R19 /SCLEC /VEC 2.2k
R17 /SDAEC /VEC 2.2k
C40 0 /5VpH 2.2u
R25 0 /VREFpH 10.7k
C46 /CP0pH /CP1pH 22n
C49 /VCPpH +24V 100n
C55 0 +24V 100n
C52 0 +24V 100n
C58 +24V 0 220u
R34 /BRApH 0 110m
C56 0 +24V 100n
R35 /BRBpH 0 110m
C47 /CP0NA /CP1NA 22n
R24 /VREFpH /5VpH 14k
C43 0 +3V3 100n
C60 +24V 0 220u
R33 /BRBNB 0 110m
R32 /BRANB 0 110m
C54 0 +24V 100n
C48 /CP0NB /CP1NB 22n
C57 0 +24V 100n
C51 /VCPNB +24V 100n
C45 0 +3V3 100n
C59 +24V 0 220u
C53 0 +24V 100n
C50 /VCPNA +24V 100n
C44 0 +3V3 100n
R31 /BRBNA 0 110m
R30 /BRANA 0 110m
R23 /VSELEC /0ISOEC 10k
C28 0 +3V3 100n
C30 0 +3V3 10u
R21 /VSELEC /VEC 16.9k
C19 /0ISOEC /VISOEC 10u
C20 /VEC /0ISOEC 100n
C34 0 +3V3 100n
C38 0 +3V3 10u
C35 +3V3 0 10n
C39 +3V3 0 100n
C24 /0ISOEC /VISOEC 100n
C25 /VEC /0ISOEC 10n
R28 /VREFNB /5VNB 14k
C42 0 /5VNB 2.2u
R29 0 /VREFNB 10.7k
C31 0 +3V3 10u
C29 0 +3V3 100n
R27 0 /VREFNA 10.7k
R26 /VREFNA /5VNA 14k
C41 0 /5VNA 2.2u
C15 0 +5V 10u
R14 /0V8BK +5V 52.3k
R15 0 /0V8BK 10k
C16 0 +5V 10u
C17 /0ISOpH /VISOpH 10u
C18 /VpH /0ISOpH 100n
L1 /5VBK +5V 10u
C12 /BSTBK /5VBK 100n
R13 0 /RTBK 21k
C22 /0ISOpH /VISOpH 100n
C23 /VpH /0ISOpH 10n
C32 0 +3V3 100n
C36 0 +3V3 10u
R16 /SDApH /VpH 2.2k
R22 /VSELpH /0ISOpH 10k
R20 /VSELpH /VpH 16.9k
R18 /SCLpH /VpH 2.2k
C37 +3V3 0 100n
C33 +3V3 0 10n
C8 0 +24V 100n
C7 0 +24V 10u
C10 0 /SSBK 33n
C6 +24V 0 1000u
R7 /GRPP /+24VF 33k
C26 +5V 0 220u
C21 0 +5V 10u
C27 0 +3V3 22u
R3 I2C_SDA +3V3 2.2k
R4 I2C_SCL +3V3 2.2k

 
V_3V3 +3V3 0 DC 3.3
V_5V +5V 0 DC 5.0
V_24V +24V 0 DC 24.0


.control 
tran 100u 10m 
set filetype=ascii 
write ./outputs/spice_circuits/OPNhydro_r2_raw.raw all 
.endc 

.end
