.title KiCad schematic

C9 VCC 0 4.7u
C1 VCC 0 4.7u
R10 VCC NRST 10k
R8 TSC_G2_IO2 Net-_A2-BTN_ 1k
C14 0 TSC_G2_IO4 22n
C5 VCC 0 100n
C4 VCC 0 100n
C6 VCC 0 100n
C2 VCC 0 100n
C3 VCC 0 100n
C8 VCC 0 100n
R1 NFC_SDA VCC 10k
R2 NFC_SCL VCC 10k
R3 NFC_INT VCC 10k
R4 DISP_RES VCC 10k
R6 DISP_SCL VCC 10k
R7 DISP_SDA VCC 10k
C13 Net-_U4-C2N_ Net-_U4-C2P_ 1u
C12 Net-_U4-C1N_ Net-_U4-C1P_ 1u
C7 Net-_U4-VCC_ 0 2.2u
C11 Net-_U4-VCOMH_ 0 4.7u
R5 0 Net-_U4-IREF_ 390k
C17 VCC 0 1u

V_VCC VCC 0 DC 3.3

.control 
tran 1m 10m 
set filetype=ascii 
write ./outputs/spice_circuits/PortalHardware_raw.raw all 
.endc 

.end
